US04291054
A solution of 1.2 g of triethylamine in 10 ml of dry ether was added dropwise to a mixture of 2.4 g of 2,6-di-t-butyl-4-nitrosophenol and 2.7 g of N-[[[N-[[N-fluorocarbonyl-N-methylaminothio]]-N-methylaminocarbonyloxy]]]ethanimidothioic acid methyl ester suspended in 40 ml of dry ether at a temperature below 25°. The mixture was stirred at room temperature for 50 minutes. Then, water and hexane were added to the mixture. The product was collected by filtration, washed with water, hexane, and air-dried to give 4.1 g of N-[[[N-[[3,5-bis-(1,1-dimethylethyl)-4-oxo-2,5-cyclohexadien-1-yli-deneaminooxycarbonyl]-N-methylaminothio]]-N-methylaminocarbonyloxy]]ethanimidothioic acid methyl ester, m.p. 160°-161.6°.

reactant | triethylamine | 1.2 g | C(C)N(CC)CC | C6H15N
reactant | 2,6-di-t-butyl-4-nitrosophenol | 2.4 g | C(C)(C)(C)C1=C(C(=CC(=C1)N=O)C(C)(C)C)O | C14H21NO2
reactant | N-[[[N-[[N-fluorocarbonyl-N-methylaminothio]]-N-methylaminocarbonyloxy]]]ethanimidothioic acid methyl ester | 2.7 g | CSC(C)=NOC(=O)N(C)SN(C)C(=O)F | C7H12FN3O3S2
reactant | water | O | H2O
solvent | ether | 10 ml | CCOCC | C4H10O
solvent | ether | 40 ml | CCOCC | C4H10O
solvent | hexane | CCCCCC | C6H14
product | N-[[[N-[[3,5-bis-(1,1-dimethylethyl)-4-oxo-2,5-cyclohexadien-1-yli-deneaminooxycarbonyl]-N-methylaminothio]]-N-methylaminocarbonyloxy]]ethanimidothioic acid methyl ester | 4.1 g | CSC(C)=NOC(=O)N(C)SN(C)C(=O)ON=C1C=C(C(C(=C1)C(C)(C)C)=O)C(C)(C)C | C21H32N4O5S2
